US07449464B2
A mixture of 27% sodium methoxide solution in methanol (400 g, 2 mol) and methanol (150 ml) was added dropwise between ambient temperature and 30° C. over 15 minutes to a stirred mixture of phthalide (67 g, 0.5 mol), 3-formylbenzonitrile (65.5 g, 0.5 mol) and ethyl propionate (250 ml), the mixture was stirred at ambient temperature for 40 minutes and at reflux temperature for 1 hour, then it was allowed to cool to ambient temperature. The resulting red solid was collected by filtration, washed with ethyl acetate (2×50 ml) and dissolved in water (1800 ml). The solution was acidified by the addition of acetic acid (60 ml) and the resulting red solid was collected by filtration, washed with water (2×200 ml) and dried in vacuo to give 3-(1,3-dioxoindan-2-yl)benzonitrile (83.2 g) as a dark red solid, m.pt. 179-182° C., m/z (M+H)+. 248, which was used without further purification.

reactant | sodium methoxide | C[O-].[Na+]
reactant | phthalide | 0.5 mol, 67 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | 3-formylbenzonitrile | 0.5 mol, 65.5 g | C(=O)C=1C=C(C#N)C=CC1 | C8H5NO
reactant | ethyl propionate | 250 ml | C(CC)(=O)OCC | C5H10O2
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 2 mol, 400 g | CO | CH4O
product | 3-(1,3-dioxoindan-2-yl)benzonitrile | 83.2 g | O=C1C(C(C2=CC=CC=C12)=O)C=1C=C(C#N)C=CC1 | C16H9NO2
